US06495719B2
A solution of 5-phenyl-2,4-pentadienal (15 g) and 3-(triphenylphosphonium)-propionic acid chloride (35.2 g) in 140 mL each of anhydrous tetrahydrofuran and anhydrous dimethyl sulfoxide was added dropwise to sodium hydride (4.6 g) at 0-5° C. under nitrogen over a period of four hours. The reaction was allowed to warm to room temperature and stirred overnight. The reaction mixture was cooled to 0-5° C. and water (280 mL) was added dropwise over a period of 30 minutes. The aqueous layer was extracted with ethyl acetate (280 mL) twice, acidified with 12 N hydrochloric acid (24 mL) to a pH of 1, extracted again with ethyl acetate (280 mL) twice. The combined organic layers were washed with water (500 mL) twice, dried over anhydrous sodium sulfate and concentrated under vacuum to give an oil. The oily crude product was chromatographed on a Biotage 40M silica gel column and eluted with methylene chloride:ethyl acetate (95:5). The fractions containing the desired product were combined and the solvents were removed under vacuum to afford 0.7 g of 8-phenyl-3,5,7-octatrienoic acid. 1H NMR (acetone-d6, 300 MHz), δ(ppm) 7.46 (m, 2H), 7.26 (m, 3H), 6.95 (m, 1H), 6.60 (d, 1H), 6.34 (m, 3H), 5.87 (m, 1H), 3.17 (d, 2H).

reactant | 5-phenyl-2,4-pentadienal | 15 g | C1(=CC=CC=C1)C=CC=CC=O | C11H10O
reactant | sodium hydride | 4.6 g | [H-].[Na+]
reactant | water | 280 mL | O | H2O
reactant | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 8-phenyl-3,5,7-octatrienoic acid | 0.7 g | C1(=CC=CC=C1)C=CC=CC=CCC(=O)O | C14H14O2
